US07157464B2
Synthesis of 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(3,4,5-tribromo-pyrazol-1-yl)-ethanone
Protocol T was followed using 3,4,5-Tribromo-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/4) afforded the title compound as white solid. 1H NMR (400 MHz, CDCl3): 6.96–7.2 (m, 2H), 6.84–6.9 (m, 2H), 5.4 (s, 2H), 3.74–3.8 (m, 2H), 3.6–3.68 (m, 2H), 3.04–3.14 (m, 4H). 13C NMR (400 MHz, CDCl3): 164.4, 158, 156, 144.2, 128, 118.4, 118.2, 116, 100, 52.8, 50.2, 50.0, 46.0, 42.2.

reactant | 3,4,5-Tribromo-1H-pyrazole | BrC1=NNC(=C1Br)Br | C3HBr3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(3,4,5-tribromo-pyrazol-1-yl)-ethanone | FC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1Br)Br)Br)=O | C15H14Br3FN4O
